US04089588
(b) Synthesis of 4-heptylbenzaldehyde
88 g of n-heptylbenzene are taken up in 50 ml of trifluoroacetic acid and 70 g of hexamethylenetetramine. The whole is refluxed for 12 hours after which the excess of trifluoroacetic acid is distilled off by means of a water jet airpump. The mixture is then poured in ice water and neutralized with soda. After extraction with ether the resulting ether solution is evaporated and the resulting 4-heptylbenzaldehyde is used for the following process step.

reactant | n-heptylbenzene | 88 g | C(CCCCCC)C1=CC=CC=C1 | C13H20
reactant | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | hexamethylenetetramine | 70 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
product | 4-heptylbenzaldehyde | C(CCCCCC)C1=CC=C(C=O)C=C1 | C14H20O
